US07635684B2
To a solution of chlorosulfonyl isocyanate (0.022 mL) in acetonitrile (1 mL) was added water (0.005 mL), and the mixture was stirred at room temperature for 10 minutes. This reaction mixture was added to a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]-methyl}-5-isopropyl-1H-pyrazole (51 mg) and triethylamine (0.052 mL) in dichloromethane (2 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=30/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(sulfamoylamino)propoxy]phenyl}-methyl)-1H-pyrazole (18 mg). This material was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.01 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (3 mg).

reactant | chlorosulfonyl isocyanate | 0.022 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 0.005 mL | O | H2O
reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]-methyl}-5-isopropyl-1H-pyrazole | 51 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN)C(C)C | C30H41N3O11
reactant | triethylamine | 0.052 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-({4-[3-(sulfamoylamino)propoxy]phenyl}-methyl)-1H-pyrazole | 18 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCNS(N)(=O)=O)C(C)C | C30H42N4O13S
